US05814651
1-(6-Fluoroquinolin-2-ylmethyl)-4-[3-(cyclopentyloxy)-4-methoxyphenyl]pyrrolidinone
Reaction of 4-[3-(cyclopentyloxy)-4-methoxyphenyl]pyrrolidinone with 2-chloromethyl-6-fluoroquinoline, analogous to the procedure of Example 29, yielded the title compound. M.P.: 65°-68° C. High Resolution Mass Spectra: Calc'd: 434.1983. Found: 434.2005.

reactant | 4-[3-(cyclopentyloxy)-4-methoxyphenyl]pyrrolidinone | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NC1)=O | C16H21NO3
reactant | 2-chloromethyl-6-fluoroquinoline | ClCC1=NC2=CC=C(C=C2C=C1)F | C10H7ClFN
product | 1-(6-Fluoroquinolin-2-ylmethyl)-4-[3-(cyclopentyloxy)-4-methoxyphenyl]pyrrolidinone | FC=1C=C2C=CC(=NC2=CC1)CN1C(CC(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C26H27FN2O3
